US07297698B2
Methyl (6-trifluoromethyl-pyridin-3-yl]-carbamate
Into 15 ml of pyridine was dissolved 3.00 g of 6-(trifluoromethyl)pyridin-3-amine, and then 2.1 ml of methyl chloroformate was added thereto under ice-cooling, followed by 2 hours of stirring at room temperature. Under ice-cooling, 30 ml of a saturated sodium bicarbonate aqueous solution was added to the reaction solution, followed by 1 hour of stirring. Thereafter, the precipitated crystals were filtrated and, after washing with water, dried under reduced pressure to obtain 3.88 g of the title compound.

reactant | 6-(trifluoromethyl)pyridin-3-amine | 3.00 g | FC(C1=CC=C(C=N1)N)(F)F | C6H5F3N2
reactant | methyl chloroformate | 2.1 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | Methyl (6-trifluoromethyl-pyridin-3-yl]-carbamate | 3.88 g | FC(C1=CC=C(C=N1)NC(OC)=O)(F)F | C8H7F3N2O2
